US04661512
(1) benzyl N-hexanoyl-(L)-pyroglutamate
A solution of 17.5 g (80 mmol) of benzyl (L)-pyroglutamate, prepared according to Example II(1), in 150 ml of benzene is added over 1 hour to a suspension of 3.85 g (80 mmol) of sodium hydride in 15 ml of dry benzene. After stirring for 1 hour at ordinary temperature, a solution of 10.9 g (81 mmol) of hexanoyl chloride in 140 ml of benzene is run in. The mixture is heated at 50° C. for 5 hours and then stirred at ordinary temperature for 15 hours, washed with water (2×100 ml), dried and evaporated.

reactant | benzyl (L)-pyroglutamate | 80 mmol, 17.5 g | N1[C@@H](CCC1=O)C(=O)OCC1=CC=CC=C1 | C12H13NO3
reactant | sodium hydride | 80 mmol, 3.85 g | [H-].[Na+]
reactant | hexanoyl chloride | 81 mmol, 10.9 g | C(CCCCC)(=O)Cl | C6H11ClO
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 15 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 140 ml | C1=CC=CC=C1 | C6H6
product | benzyl N-hexanoyl-(L)-pyroglutamate | C(CCCCC)(=O)N1[C@@H](CCC1=O)C(=O)OCC1=CC=CC=C1 | C18H23NO4
